US07592342B2
Preparation of N,N-dimethyl-N′-{5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinyl}sulfamide
In an oven dried high pressure vessel under a nitrogen atmosphere, 7-bromo-2-(1-methyl-1H-pyrazol-4-yl)quinoxaline (150 mg, 0.519 mmol), bis(pinacolato)diboron (158 mg, 0.623 mmol), potassium acetate (153 mg, 1.556 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (18.98 mg, 0.026 mmol) in anhydrous 1,4-dioxane (2 mL) was stirred at 100° C. in an oil bath for 1 hr. The reaction mixture was cooled to room temperature. N′-(5-bromo-3-pyridinyl)-N,N-dimethylsulfamide (145 mg, 0.519 mmol) followed by sodium bicarbonate (131 mg, 1.556 mmol) in water (0.67 mL) were added to the reaction mixture and the vessel was sealed again. The reaction was stirred at 100° C. for 16.75 hours then cooled to room temperature. The reaction was filtered through Celite and the pad was washed with ethyl acetate. The bi-phasic mixture was separated in a separatory funnel. The organic layer was washed with brine (20 mL), dried over magnesium sulfate, and concentrated in vacuo to give a brown solid. Trituration of the brown solid in dichloromethane (3 drops) and ether (8 mL) provided the title compound (120 mg, 57%) as a light brown solid. MS(ES)+ m/e 410.2 [M+H]+.

reactant | 7-bromo-2-(1-methyl-1H-pyrazol-4-yl)quinoxaline | 0.519 mmol, 150 mg | BrC1=CC=C2N=CC(=NC2=C1)C=1C=NN(C1)C | C12H9BrN4
reactant | bis(pinacolato)diboron | 0.623 mmol, 158 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.556 mmol, 153 mg | C(C)(=O)[O-].[K+]
reactant | N′-(5-bromo-3-pyridinyl)-N,N-dimethylsulfamide | 0.519 mmol, 145 mg | BrC=1C=C(C=NC1)NS(=O)(=O)N(C)C | C7H10BrN3O2S
reactant | sodium bicarbonate | 1.556 mmol, 131 mg | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.67 mL | O | H2O
catalyst | dichloromethane | 3 drops | ClCCl | CH2Cl2
solvent | ether | 8 mL | CCOCC | C4H10O
product | N,N-dimethyl-N′-{5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinyl}sulfamide | 120 mg, 57% | CN(S(=O)(=O)NC=1C=NC=C(C1)C=1C=C2N=C(C=NC2=CC1)C=1C=NN(C1)C)C | C19H19N7O2S
